US06646122B1
Quinolin-2-ylmethylbromide
The quinolinemethylbromide is produced as follows. In this method 0.2 mol quinoline (30.0 g) with 0.22 mol N-bromsuccinimid (42 g) and dibenzoylperoxide as starter are placed in 300 ml freshly distilled benzene under irradiation of light. The succinimid that is sedimented after strong cooling is filtered off and the benzene is rotated off. The remaining oil is put into 5% hydrobromic acid. Under cooling with ice a saturated solution of sodiumcarbonate is added to the watery solution up to a pH-value of 7. The precipitated yellowish product is drained off and recrystallized from pentane.

reactant | quinoline | 0.2 mol, 30.0 g | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | N-bromsuccinimid | 0.22 mol, 42 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | succinimid | C1(CCC(N1)=O)=O | C4H5NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Quinolin-2-ylmethylbromide | N1=C(C=CC2=CC=CC=C12)CBr | C10H8BrN
